US07319099B2
(d) 2-(4-Methoxy-benzyloxy)-5-sulfamoyl-benzoic acid
To 2.5 mmol 2-(4-methoxy-benzyloxy)-5-sulfamoyl-benzoic acid methyl ester in 6 ml THF was added 5 mmol 2 M aq NaOH, and the mixture was heated at 60° C. for 30 min. The mixture was then cooled to RT and extracted twice with ethyl acetate. The aqueous phase was acidified to pH 1 with 5 M aq HCl and extracted with ethyl acetate. The combined organic phases were washed with saturated aq NaCl and dried with Na2SO4. Evaporation in vacuo afforded the title compound. MS (m/e): 336.1 ([M−H]−, 100%)

reactant | 2-(4-methoxy-benzyloxy)-5-sulfamoyl-benzoic acid methyl ester | 2.5 mmol | COC(C1=C(C=CC(=C1)S(N)(=O)=O)OCC1=CC=C(C=C1)OC)=O | C16H17NO6S
reactant | NaOH | 5 mmol, 2 M | [OH-].[Na+]
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | 2-(4-Methoxy-benzyloxy)-5-sulfamoyl-benzoic acid | COC1=CC=C(COC2=C(C(=O)O)C=C(C=C2)S(N)(=O)=O)C=C1 | C15H15NO6S
